US06353006B1
2,4,6-Trichlorophenyl isothiocyanate was reacted with 2-butylamine followed by chloroacetic acid according to Method C8a to afford 2-(2,4,6-trichlorophenylimino)-3-(2-butyl)-1,3-thiazolidin-4-one.

reactant | 2,4,6-Trichlorophenyl isothiocyanate | ClC1=C(C(=CC(=C1)Cl)Cl)N=C=S | C7H2Cl3NS
reactant | 2-butylamine | CC(CC)N | C4H11N
reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
product | 2-(2,4,6-trichlorophenylimino)-3-(2-butyl)-1,3-thiazolidin-4-one | ClC1=C(C(=CC(=C1)Cl)Cl)N=C1SCC(N1C(C)CC)=O | C13H13Cl3N2OS
